* Negative control 1/2 for the trivial_mos_array LVS proof (issue #2):
* a device-parameter-only corruption (M1's W changed 0.42U -> 0.90U,
* connectivity untouched) -- the "device.property" corruption class per
* klt's own LVS field notes (docs/cli/lvs.md, "Negative controls: two
* independent corruptions" in the klayout-tools repo). Must report
* status "mismatch". See layout/README.md for the run and its recorded
* result.
*
* 8 M-cards (all physically-drawn units, real + dummy), matching
* reference.spice's own device-count note -- see that file's header for why.
.SUBCKT trivial_mos_array vsubs
M1 d1 g1 s1 vsubs nfet L=0.28U W=0.90U
M2 d2 g2 s2 vsubs nfet L=0.28U W=0.42U
M3 d3 g3 s3 vsubs nfet L=0.28U W=0.42U
M4 d4 g4 s4 vsubs nfet L=0.28U W=0.42U
M5 d5 g5 s5 vsubs nfet L=0.28U W=0.42U
M6 d6 g6 s6 vsubs nfet L=0.28U W=0.42U
M7 d7 g7 s7 vsubs nfet L=0.28U W=0.42U
M8 d8 g8 s8 vsubs nfet L=0.28U W=0.42U
.ENDS trivial_mos_array
